Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Mesenteric ischemia
 
Major Surgical or Invasive Procedure:
___ Aorto-celiac/SMA bypass  

___ mesenteric angio  

 
History of Present Illness:
___ with longstanding mesenteric
ischemic disease with known complete occlusion of celiac and 
___,
s/p ex lap/SBR in ___ for bowel ischemia, and a subsequent ___
stent on ___.  She recently underwent angioplasty of the 
SMA
stent on ___, and has been doing well without any problems
eating/drinking until about 3 days ago, when she developed vague
abdominal discomfort, distension, and nausea with intake of 
solid
foods.  She is passing gas and having normal bowel movements
without diarrhea or constipation.  Today she has been able to
tolerate cranberry juice, but became nauseous and vomited when
she tried to eat toast.  She denies any blood in her stools.  
She
has not had any fevers or chills, chest pain or SOB.  Her
abdominal discomfort is improved by sitting up and worsened with
standing and moving.  We are consulted to assist in management
 
Past Medical History:
PMH: MI early 1990s, s/p cardiac cath, no intervention
PSH: ___ stenting ___, ___ stenting ___, Ex-lap and SBR
___, take back for bleeding ___, SMA stenting 
___, hysterectomy

 
Social History:
___
Family History:
Brother and mother with DM. 
 
Physical Exam:
Vital Signs: Temp: 98.6 RR: 16 Pulse: 79 BP: 106/85  
Neuro/Psych: Oriented x3, Affect Normal, NAD. 
Neck: No masses, Trachea midline, Thyroid normal size,
non-tender, no masses or nodules, No right carotid bruit, No 
left
carotid bruit. 
Nodes: No clavicular/cervical adenopathy, No inguinal 
adenopathy.

Skin: No atypical lesions. 
Heart: Regular rate and rhythm. 
Lungs: Clear, Normal respiratory effort. 
Gastrointestinal: Non distended, No masses, No
hepatosplenomegally, No hernia, No AAA, abnormal: Mild 
epigastric
tenderness, no rebound. 
Rectal: Not Examined. 
Extremities: No popiteal aneurysm, No femoral bruit/thrill, No
RLE edema, No LLE Edema, No varicosities, No skin changes. 
 
Pulse Exam (P=Palpation, D=Dopplerable, N=None)
RUE Radial: P. 
LUE Radial: P. 
RLE DP: P. ___: P. 
LLE DP: D. ___: P. 

 
Pertinent Results:
___ 02:20AM BLOOD 

WBC-4.5 RBC-3.21* Hgb-8.9* Hct-28.0* MCV-87 MCH-27.7 MCHC-31.8 
RDW-16.1* Plt ___

___ 04:16PM BLOOD 

___ PTT-26.5 ___

___ 03:48PM BLOOD 

Glucose-110* UreaN-4* Creat-0.3* Na-138 K-3.4 Cl-108 HCO3-21* 
AnGap-12

___ 06:15AM BLOOD 

ALT-98* AST-36 LD(LDH)-182 AlkPhos-111* TotBili-0.5

___ 03:48PM BLOOD 

Calcium-6.9* Phos-2.8 Mg-1.9

___ 02:30AM 

URINE Color-Straw Appear-Hazy Sp ___
URINE Blood-NEG Nitrite-POS Protein-NEG Glucose-NEG Ketone-10 
Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-SM 
URINE RBC-1 WBC-7* Bacteri-FEW Yeast-NONE Epi-2 TransE-<1

URINE CULTURE (Final ___: 

KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
  

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
Mrs. ___ was admitted on ___ with mesenteric ischemia. 
She agreed to have an elective surgery. Pre-operatively, she was 
consented. A CXR, EKG, UA, CBC, Electrolytes, T/S - were 
obtained,  all other preparations were made.
 
It was decided that she would undergo an angiogram. We were 
unsuccessfully to open up her previous SMA stent

We then decided to do a Aorto-celiac/SMA bypass.

She was prepped, and brought down to the operating room for 
surgery. Intra-operatively, she was closely monitored and 
remained hemodynamically stable. She tolerated the procedure 
well without any difficulty or complication.
 
Post-operatively, she was extubated and transferred to the PACU 
for further stabilization and monitoring. 
 
She was then transferred to the VICU for further recovery. While 
in the VICU she received monitored care. When stable she was 
delined. Her diet was advanced. A ___ consult was obtained. When 
she was stabilized from the acute setting of post operative 
care, she was transferred to floor status 
 
On the floor, she remained hemodynamically stable with his pain 
controlled. She progressed with physical therapy to improve her 
strength and mobility. She continues to make steady progress 
without any incidents. She was discharged to a rehabilitation 
facility in stable condition.
 
To note was treated for a UTI. 

She also had low potassium and magnesium. These were replaced. 
She will follow up with her PCP this week to recheck her lytes. 
She is to go home on mag and potassium supplements.

She will also follow - up with Dr ___ in ___ weeks for staple 
removal.
 
Medications on Admission:
ASA 81', Plavix 75', Simvastatin 20' 
 
Discharge Medications:
1. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
3. FerrouSul 325 mg (65 mg iron) Tablet Sig: One (1) Tablet PO 
once a day.  
4. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day for 30 days.
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*0*
5. hydromorphone 2 mg Tablet Sig: ___ Tablets PO four times a 
day for 10 days: PRN.
Disp:*40 Tablet(s)* Refills:*0*
6. Dulcolax 5 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO twice a day for 10 days.
Disp:*20 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
7. magnesium oxide 500 mg Capsule Sig: One (1) Capsule PO once a 
day for 7 days.
Disp:*7 Capsule(s)* Refills:*0*
8. potassium chloride 20 mEq Packet Sig: One (1)  PO once a day 
for 7 days.
Disp:*7 potassium chloride (Oral) 20 mEq Packet* Refills:*0*
9. senna 8.6 mg Capsule Sig: One (1) Capsule PO twice a day for 
10 days.
Disp:*60 Capsule(s)* Refills:*0*
10. Outpatient Lab Work
Chem 10, please include mag and potassium. Fax the reswults to 
PCP:

Name: ___. 
Location: ___ - ___ 
Address: ___, ___ 
Fax: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
SMA occlusion - mesenteric ischemia

PMH: chronic mesenteric ischemia w bowel resections, MI 1990s  
PSH: ___ stenting ___ 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery

Bypass Surgery Discharge Instructions

What to expect when you go home:
1. It is normal to feel tired, this will last for ___ weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!

2. Avoid prolonged periods of standing or sitting without your 
legs elevated

3. It is normal to have a decreased appetite, your appetite will 
return with time 

•You will probably lose your taste for food and lose some 
weight 

•Eat small frequent meals

•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing

•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:

•No driving until post-op visit and you are no longer taking 
pain medications
•Unless you were told not to bear any weight on operative foot: 

•You should get up every day, get dressed and walk
•You should gradually increase your activity
•You may up and down stairs, go outside and/or ride in a car
•Increase your activities as you can tolerate- do not do too 
much right away!
•No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
•You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed
•Take all the medications you were taking before surgery, 
unless otherwise directed
•Take one full strength (325mg) enteric coated aspirin daily, 
unless otherwise directed 
•Call and schedule an appointment to be seen in 2 weeks for 
staple/suture removal

What to report to office:
•Redness that extends away from your incision
•A sudden increase in pain that is not controlled with pain 
medication
•A sudden change in the ability not to eat food
•Temperature greater than 100.5F for 24 hours
•Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions

 
Followup Instructions:
___